### PR TITLE
feat: fix BitVec.abs, prove toInt produces the expected value

### PR DESCRIPTION
**Pull request by bollu**
Abs has the interesting wrinkle where if we feed it `intMin`, it stays `intMin`:

```
100 -- 4#3
```

If we compute `-x`, i.e. `!x + 1`, we get:

```
 011
+001
 ---
 100
```

In this PR, we show that `abs` of `intMin` produces `intMin` again, and `abs` of every other number gives `.toInt.abs`. We also define `Int.abs` to phrase lemmas naturally.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2674,6 +2666,106 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
...
+  simp only [hx, decide_True, ↓reduceIte, neg_eq]
+
+/-- Either x < y or x ≥ y, i.e. y ≤ x -/
+theorem slt_or_sle (x y : BitVec w) : x.slt y ∨ y.sle x := by
+ rw [BitVec.slt, BitVec.sle]
+ by_cases h : x.toInt < y.toInt <;> simp [h] <;> omega
+
+/-- TODO: what should I name this lemmas? -/
+theorem abs_cases (x : BitVec w) : x.abs = 
+    if x = intMin w then (intMin w)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2761]: These are often named `abs_eq_if`.

Also, you may not need the `x = intMin w` case, as `x = -x` holds for `intMin` as well, and so falls in your second case.

**Comment by bollu** [comment]
Upstreamed, closing.
